US08980911B2
N-[3-(4-Cyano-2,6-difluorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]acetamide (Compound No. 53) was prepared from N-(1H-pyrrolo[2,3-c]pyridin-7-yl)acetamide and 4-cyano-2,6-difluoro benzoyl chloride.

reactant | N-(1H-pyrrolo[2,3-c]pyridin-7-yl)acetamide | N1C=CC=2C1=C(N=CC2)NC(C)=O | C9H9N3O
reactant | 4-cyano-2,6-difluoro benzoyl chloride | C(#N)C1=CC(=C(C(=O)Cl)C(=C1)F)F | C8H2ClF2NO
product | N-[3-(4-Cyano-2,6-difluorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]acetamide | C(#N)C1=CC(=C(C(=O)C2=CNC3=C(N=CC=C32)NC(C)=O)C(=C1)F)F | C17H10F2N4O2
